US09376422B2
Step 1: Synthesis of methyl 5-bromo-3-(cyclopentyl(methyl)amino)-2-methylbenzoate
To a stirred solution of methyl 5-bromo-3-(cyclopentylamino)-2-methylbenzoate (0.5 g, 1.75 mmol) in acetonitrile (10 mL), Cs2CO3 (1.02 g, 2.63 mmol) and methyl iodide (1.45 g, 3.5 mmol) were added to it. The resulting reaction mixture was stirred at 80° C. for 4 h. Upon completion, the solvent was removed under reduced pressure and residue dissolved in water and extracted with ethyl acetate. Crude material obtained was purified by column chromatography over silica gel affording the desired compound product without further purification (0.39 g).

reactant | methyl 5-bromo-3-(cyclopentylamino)-2-methylbenzoate | 1.75 mmol, 0.5 g | BrC=1C=C(C(=C(C(=O)OC)C1)C)NC1CCCC1 | C14H18BrNO2
reactant | Cs2CO3 | 2.63 mmol, 1.02 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | methyl iodide | 3.5 mmol, 1.45 g | CI | CH3I
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | methyl 5-bromo-3-(cyclopentyl(methyl)amino)-2-methylbenzoate | BrC=1C=C(C(=C(C(=O)OC)C1)C)N(C)C1CCCC1 | C15H20BrNO2
